US05922861
A stirred solution of tert-butyl (6R,7R)-3-methyl-7-phenoxyacetamido-ceph-3-em-4-carboxylate (0.41 g, 1.0 mmol) in dichloromethane (25 ml) was cooled to 0° C. Titanium tetrachloride (0.38 ml, 3.5 mmol) was added in 1 min. A yellow precipitate was formed which was stirred for 2 h at 0°C. To the suspension was added a chilled 1M solution of hydrochloric acid in. water (40 ml). The organic phase was separated, washed with water and brine, dried over magnesium sulphate, and evaporated to give 0.30 g of (6R, 7R) -3-methyl-7-phenoxyacetamidoceph-3-em-4-carboxylic acid (purity 63%, yield 54.3%).

reactant | tert-butyl (6R,7R)-3-methyl-7-phenoxyacetamido-ceph-3-em-4-carboxylate | 1.0 mmol, 0.41 g | CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C20H24N2O5S
reactant | hydrochloric acid | Cl | ClH
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 3.5 mmol, 0.38 ml | [Ti](Cl)(Cl)(Cl)Cl
product | (6R, 7R) -3-methyl-7-phenoxyacetamidoceph-3-em-4-carboxylic acid | 0.30 g, yield 54.3% | CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C16H16N2O5S
